US08685980B2
In a large sealed tube is added 5-bromo-2,4-dichloropyrimidine (3 g, 13.2 mmol) in 100 mL of EtOH. Then cyclopentyl amine (1.95 mL, 19.75 mmol) and N,N′-diisopropylethylamine (3.36 mL, 19.8 mmol) are added to the solution at rt. The solution is then stirred rt overnight. Solvent is evaporated and the crude is purified using silica gel chromatography (15% ethyl acetate/85% hexane) to give (5-bromo-2-chloro-pyrimidin-4-yl)-cyclopentyl-amine as a white solid (3.25 g, 89%). MS (ESI) m/z 278.4 (M+H)+

reactant | 5-bromo-2,4-dichloropyrimidine | 13.2 mmol, 3 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | cyclopentyl amine | 19.75 mmol, 1.95 mL | C1(CCCC1)N | C5H11N
reactant | N,N′-diisopropylethylamine | 19.8 mmol, 3.36 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 100 mL | CCO | C2H6O
product | (5-bromo-2-chloro-pyrimidin-4-yl)-cyclopentyl-amine | 3.25 g, 89% | BrC=1C(=NC(=NC1)Cl)NC1CCCC1 | C9H11BrClN3
